US04269788
Methanesulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester is reacted with methylamine by an analogous procedure to that described in Example 7. The crude product obtained is converted in the usual manner into the hydrochloride which is recrystallized from isopropanol. There is obtained N-methyl-1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride having a melting point of 172°-173° C.

reactant | Methanesulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester | C1(=CC=CC=C1)C1(C=CCC=C1)CCOS(=O)(=O)C | C15H18O3S
reactant | methylamine | CN | CH5N
reactant | hydrochloride | Cl | ClH
product | N-methyl-1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride | Cl.CNCCC1(C=CCC=C1)C1=CC=CC=C1 | InChI=1S/C15H19N.ClH/c1-16-13-12-15(10-6-3-7-11-15)14-8-4-2-5-9-14;/h2,4-11,16H,3,12-13H2,1H3;1H
